### PR TITLE
generalize zmodp operations

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Generalizes the operations on ordinals in `zmodp.v` so that `opp`, `add`, `mul` and `inv` are defined on the ordinal `I_0`.

##### Minimal TODO list

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: mathcomp/algebra/zmodp.v [hunk 1]
```diff
@@ -63,6 +63,60 @@ Section ZpDef.
 (*                                                                     *)
 (***********************************************************************)
 
+(* Operations on 'I_p without constraint on p. *)
+Section Generic.
+Variable p : nat.
+Implicit Types i j : 'I_p.
+
+Lemma Zp_opp_subproof i : (p - i) %% p < p.
```
Comment (proux01) [inline mathcomp/algebra/zmodp.v:71]: Do we really need the modulus here?

Comment (Tragicus) [reply mathcomp/algebra/zmodp.v:71]: Yes, if `i = 0`.

**Comment by proux01** [comment]
So, apparently solvable/extremal.v needs some fix

File: mathcomp/algebra/zmodp.v [hunk 2]
```diff
@@ -78,76 +132,45 @@ Proof. by apply: val_inj; rewrite /= modZp. Qed.
...
-Definition Zp_opp x := inZp (p - x).
-Definition Zp_add x y := inZp (x + y).
-Definition Zp_mul x y := inZp (x * y).
-Definition Zp_inv x := if coprime p x then inZp (egcdn x p).1 else x.
 
 (* Additive group structure. *)
 
-Lemma Zp_add0z : left_id Zp0 Zp_add.
-Proof. exact: valZpK. Qed.
+Lemma Zp_add0z : left_id Zp0 (@Zp_add p).
```
Comment (thery) [inline mathcomp/algebra/zmodp.v:138]: could put the argument `p` of `Zp, ` `Zp_opp` and `Zp_mul` implicite once and forall, so we could avoid all these `@`

File: mathcomp/algebra/zmodp.v [hunk 3]
```diff
@@ -78,76 +132,45 @@ Proof. by apply: val_inj; rewrite /= modZp. Qed.
...
-Proof.
-by move=> x y z; apply: val_inj; rewrite /= modnDml modnDmr addnA.
-Qed.
-
-Lemma Zp_addC : commutative Zp_add.
-Proof. by move=> x y; apply: val_inj; rewrite /= addnC. Qed.
-
 HB.instance Definition _ :=
-  GRing.isZmodule.Build 'I_p Zp_addA Zp_addC Zp_add0z Zp_addNz.
+  GRing.isZmodule.Build 'I_p (@Zp_addA p) (@Zp_addC p) Zp_add0z Zp_addNz.
```
Comment (thery) [inline mathcomp/algebra/zmodp.v:147]: `GRing.isZmodule.Build 'I_p (@Zp_addA _) (@Zp_addC _) Zp_add0z Zp_addNz.`

File: mathcomp/algebra/zmodp.v (hunk 2 above)
Comment (Tragicus) [reply mathcomp/algebra/zmodp.v:138]: It is already implicit. The issue is that `Zp_add` is not applied and since I need `Zp0`, this can not go in the previous section, where `Zp_add` was not yet generalized over `p`. I can write `(Zp_add : 'I_p -> 'I_p -> 'I_p)` but that looks horrible to me.

Comment (thery) [reply mathcomp/algebra/zmodp.v:138]: `Argument Zp_add {p}.`

Comment (Tragicus) [reply mathcomp/algebra/zmodp.v:138]: Oh, I see.
